US09315521B2
To a solution of (1-ethyl-5-methyl-1H-imidazol-4-yl)methanol (340 mg, 2.4 mmol) in anhydrous dichloromethane (20 mL) was added thionyl chloride (9004). The mixture was stirred at room temperature for 4 hours. Dichloromethane was evaporated, and the mixture was then co-evaporated with toluene (20 mL). The residue was dried in vacuo, affording 4-(chloromethyl)-1-ethyl-5-methyl-1H-imidazole hydrochloride (450 mg, 96% yield). The product was used without further purification.

reactant | (1-ethyl-5-methyl-1H-imidazol-4-yl)methanol | 2.4 mmol, 340 mg | C(C)N1C=NC(=C1C)CO | C7H12N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(chloromethyl)-1-ethyl-5-methyl-1H-imidazole hydrochloride | 450 mg, 96% yield | Cl.ClCC=1N=CN(C1C)CC | InChI=1S/C7H11ClN2.ClH/c1-3-10-5-9-7(4-8)6(10)2;/h5H,3-4H2,1-2H3;1H
